US04196250
A. 1,11-Dichloro-3,6,9-trioxaundecane
A mixture of 430 g of tetraethylene glycol (2.2 moles), 2000 ml of dry benzene, and 386 g of pyridine (4.9 moles) is heated to reflux, and 580 g of thionyl chloride (4.9 moles) is added dropwise with stirring in three hours. During this period the reflux temperature of the mixture drops from 86° to 78°, and a white precipitate is formed. Heating is continued overnight (16 hours) and, after cooling, 50 ml of hydrochloric acid diluted with 200 ml of water is added dropwise in about 15 minutes. Benzene is removed from the upper layer containing the product, and the residue vacuum distilled at 4.5 mm Hg at 165°. The yield is 375 g of light yellow liquid (72%).

reactant | tetraethylene glycol | 2.2 moles, 430 g | C(COCCOCCOCCO)O | C8H18O5
reactant | pyridine | 4.9 moles, 386 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 4.9 moles, 580 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | benzene | 2000 ml | C1=CC=CC=C1 | C6H6
product | 1,11-Dichloro-3,6,9-trioxaundecane | ClCCOCCOCCOCCCl | C8H16Cl2O3
